US08278290B2
(i) 4-(3-Fluoro-2,4-dimethoxyphenylethynyl)-1-(4-methoxybenzyl)-1H-pyrazole
To a stirred solution of 3-fluoro-2,4-dimethoxy-iodobenzene (200 mg, 0.71 mmol) and 4-ethynyl-1-(4-methoxy-benzyl)-1H-pyrazole (180 mg, 0.85 mmol) in dry MeCN (4 ml) and NEt3 (2 ml) was added Pd(Ph3P)2Cl2 (15 mg, 3 mol %) and the reaction vessel was evacuated and backfilled with N2 (g) three times. Copper (I) iodide (6 mol %) was added and the reaction rapidly became dark. Stirring was continued at room temperature for 3 hours, then the crude mixture was concentrated directly onto silica-gel and purified by flash chromatography (silica-gel, eluted sequentially with hexanes:EtOAc, 3:1, 2:1) to give the product as a resin that crystallised slowly upon standing in the freezer (230 mg, 89%). 1H-NMR (300 MHz, CDCl3) δ 7.66 (s, 1H), 7.50 (s, 1H), 7.19 (d, J=8.6 Hz, 2H), 7.10 (dd, J=8.7, 2.1 Hz, 1H), 6.87 (d, J=8.6 Hz, 2H), 6.61 (t, J=8.2 Hz, 1H), 5.24 (s, 2H), 4.01 (s, 3H), 3.87 (s, 3H), 3.79 (s, 3H).

reactant | 3-fluoro-2,4-dimethoxy-iodobenzene | 0.71 mmol, 200 mg | FC=1C(=C(C=CC1OC)I)OC | C8H8FIO2
reactant | 4-ethynyl-1-(4-methoxy-benzyl)-1H-pyrazole | 0.85 mmol, 180 mg | C(#C)C=1C=NN(C1)CC1=CC=C(C=C1)OC | C13H12N2O
solvent | MeCN | 4 ml | CC#N | C2H3N
solvent | NEt3 | 2 ml | CCN(CC)CC | C6H15N
catalyst | Pd(Ph3P)2Cl2 | 15 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(3-Fluoro-2,4-dimethoxyphenylethynyl)-1-(4-methoxybenzyl)-1H-pyrazole | FC=1C(=C(C=CC1OC)C#CC=1C=NN(C1)CC1=CC=C(C=C1)OC)OC | C21H19FN2O3
